US08198325B2
To 1 ml of thionyl chloride (SOCl2) were added 3 drops of N,N-dimethylformamide (DMF) with stirring. Following the addition of 5-aminolevulinic acid hydrochloride (ALA.HCl, 200 mg, 1.19 mol), the solution was stirred for 12 hours at room temperature. Concentration in a vacuum was conducted before the addition of cis-2-pentenol. Then, the reaction mixture was stirred for 1.5 hours at room temperature, followed by purification by silica gel chromatography to afford cis-2-pentenyl 5-aminolevulinate hydrochloride at a yield of 68%.

reactant | thionyl chloride | 1 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 5-aminolevulinic acid hydrochloride | 1.19 mol, 200 mg | Cl.NCC(CCC(=O)O)=O
catalyst | N,N-dimethylformamide | 3 drops | CN(C=O)C | C3H7NO
product | cis-2-pentenyl 5-aminolevulinate hydrochloride | yield of 68% | Cl.NCC(CCC(=O)OC\C=C/CC)=O | InChI=1S/C10H17NO3.ClH/c1-2-3-4-7-14-10(13)6-5-9(12)8-11;/h3-4H,2,5-8,11H2,1H3;1H/b4-3-;
